US07423159B2
A mixture of ethyl 4-[(4-nitrobenzyl)amino]-4-oxobutanoate (10 g), 10% palladium carbon (1 g) and ethanol (300 ml) was stirred under a hydrogen atmosphere at room temperature for 14 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-hexane gave ethyl 4-[(4-aminobenzyl)amino]-4-oxobutanoate (3.6 g, 40%) as colorless prism crystals. melting point: 62-64° C.

reactant | ethyl 4-[(4-nitrobenzyl)amino]-4-oxobutanoate | 10 g | [N+](=O)([O-])C1=CC=C(CNC(CCC(=O)OCC)=O)C=C1 | C13H16N2O5
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 4-[(4-aminobenzyl)amino]-4-oxobutanoate | 3.6 g, 40% | NC1=CC=C(CNC(CCC(=O)OCC)=O)C=C1 | C13H18N2O3
